US08309580B2
(5) 2-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}-1,3-dioxolane
To a solution of cyclohexyl[5-(1,3-dioxolan-2-yl)-2-ethylthiophen-3-yl]methanol (3.00 g) synthesized above in toluene (60 mL) were added pyridine (979 μL) and thionyl chloride (883 μL) at 0° C., and the mixture was stirred at 0° C. for 1.5 hr, and then at room temperature for 30 min. Saturated aqueous sodium hydrogen carbonate solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (3.28 g, quantitative) as a pale-yellow oil.

reactant | cyclohexyl[5-(1,3-dioxolan-2-yl)-2-ethylthiophen-3-yl]methanol | 3.00 g | C1(CCCCC1)C(O)C1=C(SC(=C1)C1OCCO1)CC | C16H24O3S
reactant | pyridine | 979 μL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 883 μL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}-1,3-dioxolane | 3.28 g | ClC(C=1C=C(SC1CC)C1OCCO1)C1CCCCC1 | C16H23ClO2S
